US07368578B2
To a solution of 2-ethyl-4-{(E)-2-[3-(methoxymethoxy)-1-phenyl-1H-pyrazol-4-yl]ethenyl}-5-methyl-1,3-thiazole (3.21 g) in methanol (75 mL) was added concentrated hydrochloric acid (1.5 mL) at room temperature, and the mixture was stirred at 50° C. for 2 hrs. The reaction mixture was evaporated under reduced pressure, and the residue was washed with ethyl acetate-methanol to give 4-[(E)-2-(2-ethyl-5-methyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-ol.hydrochloride (3.02 g, yield 96%) as pale-yellow prism crystals. melting point: 184-186° C.

reactant | 2-ethyl-4-{(E)-2-[3-(methoxymethoxy)-1-phenyl-1H-pyrazol-4-yl]ethenyl}-5-methyl-1,3-thiazole | 3.21 g | C(C)C=1SC(=C(N1)\C=C\C=1C(=NN(C1)C1=CC=CC=C1)OCOC)C | C19H21N3O2S
reactant | hydrochloric acid | 1.5 mL | Cl | ClH
solvent | methanol | 75 mL | CO | CH4O
product | 4-[(E)-2-(2-ethyl-5-methyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-ol.hydrochloride | 3.02 g, yield 96% | Cl.C(C)C=1SC(=C(N1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)O)C | InChI=1S/C17H17N3OS.ClH/c1-3-16-18-15(12(2)22-16)10-9-13-11-20(19-17(13)21)14-7-5-4-6-8-14;/h4-11H,3H2,1-2H3,(H,19,21);1H/b10-9+;
